data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2805,3117,[CH3:24][NH:25][C:26](=[O:27])[C-:28]([NH+:29]=[C:30]([C:31]#[N:32])[C:33]#[N:34])[C:35](=[O:36])[O:37][CH3:38].[N:1]#[C:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1>>[N:1]#[C:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([NH:25][CH3:24])=[O:27])([C:35](=[O:36])[O:37][CH3:38])[NH:29][C:30]2([C:31]#[N:32])[C:33]#[N:34],water,298.15,20.80451364012236,-27.50000386604917
5054,5742,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19]([CH3:20])=[O+:21][N-:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:21][C:19]2([C:17]([O:16][CH3:15])=[O:18])[CH3:20],water,298.15,15.500865961331275,-29.11730100608149
333,362,[CH3:1][O:2][C:3]#[C:4][C:5](=[O:6])[O:7][CH3:8].[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20]>>[CH3:1][O:2][C:3]1=[C:4]([C:5](=[O:6])[O:7][CH3:8])[C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,25.872545696194223,-36.630709633497325
70,81,[CH3:1][C:2](=[O:3])[C:4]#[C:5][Cl:6].[CH3:7][C-:8]([C:9]#[N:10])[O+:11]=[C:12]([C:13]#[N:14])[C:15]#[N:16]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[C:12]([C:13]#[N:14])([C:15]#[N:16])[O:11][C:8]1([CH3:7])[C:9]#[N:10],water,298.15,11.831835747200772,-61.50197636161213
1584,1753,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[c:26](=[O:27])[o:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]1([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[NH:18][C:17]3([C:15]([NH:14][CH3:13])=[O:16])[O:28][C:26]1=[O:27],water,298.15,15.634668325681396,-19.939720313291787
1924,2132,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([C:24]([CH3:25])=[O:26])[C:27]([CH3:28])=[O:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([O:11][CH3:12])[O:13][CH3:14]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([O:11][CH3:12])([O:13][CH3:14])[C:23]([C:24]([CH3:25])=[O:26])([C:27]([CH3:28])=[O:29])[NH:22][C:19]1([C:17]([O:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,31.77320979656701,8.37152538048076
4852,5534,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[O:16][C:17]1([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,11.656715488451812,-40.97589225852136
8,8,[CH2-:8][O+:9]=[CH:10][CH3:11].[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[CH:10]([CH3:11])[O:9][CH2:8]1,water,298.15,6.289672901608013,-86.79967066656836
469,514,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][O:9][C:10](=[O:11])[C-:12]([C:13]#[N:14])[N+:15]#[C:16][C:17]#[N:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:16]([C:17]#[N:18])=[N:15][C:12]1([C:10]([O:9][CH3:8])=[O:11])[C:13]#[N:14],water,298.15,15.01888493852383,-62.7758620508753
500,546,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][N-:19][C:20]#[N:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([F:11])[F:12]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([F:11])([F:12])[N:19]([C:20]#[N:21])[N:18]=[C:17]1[C:15]([NH:14][CH3:13])=[O:16],water,298.15,21.3293796445068,-41.33457499131687
3548,4046,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[NH+:13][C-:14]([CH3:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([CH3:12])[NH:13][C:14]1([CH3:15])[C:16]([CH3:17])=[O:18],water,298.15,22.80603997581225,-12.204870744451751
358,389,[CH3:1][C:2]#[C:3][C:4](=[O:5])[O:6][CH3:7].[CH3:8][N+:9](=[CH:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[C-:17]([C:18]#[N:19])[C:20]#[N:21]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[O:6][CH3:7])[C:17]([C:18]#[N:19])([C:20]#[N:21])[N:9]([CH3:8])[CH:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,21.857482182971467,-34.03006428571624
